US03935267
prepared as described hereinbefore, by mixing a cooled solution (temperature less than about 30°C.) of 5,8-dihydro-1-naphthol in ethyl acetate with m-chloroperbenzoic acid and mixing the resulting slurry with a mixture of ethyl ether and aqueous sodium bicarbonate, to form 5,6,7,8-tetrahydro-6,7-epoxy-1-naphthol ##SPC33##

reactant | 5,8-dihydro-1-naphthol | C1(=CC=CC=2CC=CCC12)O | C10H10O
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6,7,8-tetrahydro-6,7-epoxy-1-naphthol | O1C2CC=3C=CC=C(C3CC21)O | C10H10O2
